US08461330B2
Step 2. 2-(4-bromo-3-fluorophenyl)-7-(4-methoxyphenoxy)imidazo[1,2-b][1,2,4]triazine
To a cooled (0° C.) mixture of (4-methoxyphenoxy)acetaldehyde (33.2 mg, 0.2 mmol) and D-proline (4.6 mg, 0.04 mmol) in chloroform (1.0 mL) was added N-chlorosuccinimide (26.7 mg, 0.2 mmol) with stirring. The mixture was stirred at 0° C. for 30 min, then gradually warmed to ambient temperature for 2 h. To the reaction mixture was added 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine (26.9 mg, 0.1 mmol). The reaction mixture was stirred for 1 h and then the solvent was removed under reduced pressure. The residue was dissolved in isopropanol (2 mL) and heated to 100° C. overnight. After cooling, the mixture was filtered and the filtrate was purified by RP-HPLC (pH 10) to afford the desired product. LCMS: (M+H)=415.0/416.9.

reactant | (4-methoxyphenoxy)acetaldehyde | 0.2 mmol, 33.2 mg | COC1=CC=C(OCC=O)C=C1 | C9H10O3
reactant | D-proline | 0.04 mmol, 4.6 mg | N1[C@@H](C(=O)O)CCC1 | C5H9NO2
reactant | N-chlorosuccinimide | 0.2 mmol, 26.7 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | 6-(4-bromo-3-fluorophenyl)-1,2,4-triazin-3-amine | 0.1 mmol, 26.9 mg | BrC1=C(C=C(C=C1)C1=CN=C(N=N1)N)F | C9H6BrFN4
solvent | chloroform | 1.0 mL | C(Cl)(Cl)Cl | CHCl3
product | 2-(4-bromo-3-fluorophenyl)-7-(4-methoxyphenoxy)imidazo[1,2-b][1,2,4]triazine | BrC1=C(C=C(C=C1)C=1C=NC=2N(N1)C(=CN2)OC2=CC=C(C=C2)OC)F | C18H12BrFN4O2
